US07071216B2
Synthesis of (4-{2-[(4-bromophenyl)amino]benzoxazol-5-yloxy}-(2-pyridyl))-N-methylcarboxamide
The mixture containing 2-[(4-bromophenyl)amino]benzoxazol-5-ol (1 eq), potassium bis(trimethylsilyl)amide (4 eq), was stirred in dimethylformamide for 30 min at room temperature. To this mixture was added (4-chloro(2-pyridyl)-N-methyl-carboxamide (1 eq) and Potassium carbonate (1.2 eq) and microwaved for 6 mins at 150° C. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried, filtered and concentrated. Purification on Prep LC yielded the desired product. MS: MH+=439.

reactant | 2-[(4-bromophenyl)amino]benzoxazol-5-ol | 1 eq | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)O | C13H9BrN2O2
reactant | potassium bis(trimethylsilyl)amide | 4 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro(2-pyridyl)-N-methyl-carboxamide | 1 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | Potassium carbonate | 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (4-{2-[(4-bromophenyl)amino]benzoxazol-5-yloxy}-(2-pyridyl))-N-methylcarboxamide | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)OC2=CC(=NC=C2)C(=O)NC | C20H15BrN4O3
